US07776869B2
Step 3: 5-ethynyl-N-(2-morpholinoethyl)pyridin-2-amine
N-(2-morpholinoethyl)-5-(2-(trimethylsilyl)ethynyl)pyridin-2-amine (2.0 g, 6.60 mmol) was dissolved in methanol (30 mL) before it was cooled to 0° C. and potassium carbonate (1.0 g, 7.26 mmol) added. The reaction mixture was stirred for 1 h at ambient temperature, then diluted with 50 mL EtOAc, washed with 20 mL saturated, aqueous NaHCO3, and dried over anhydrous Na2SO4 to give the title compound. MS (ES+): 232 (M+H)+.

reactant | N-(2-morpholinoethyl)-5-(2-(trimethylsilyl)ethynyl)pyridin-2-amine | 6.60 mmol, 2.0 g | O1CCN(CC1)CCNC1=NC=C(C=C1)C#C[Si](C)(C)C | C16H25N3OSi
reactant | potassium carbonate | 7.26 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 30 mL | CO | CH4O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 5-ethynyl-N-(2-morpholinoethyl)pyridin-2-amine | C(#C)C=1C=CC(=NC1)NCCN1CCOCC1 | C13H17N3O
